US06524379B2
Tetra-(1-naphthyl) porphine (designated TNP) was prepared from the following reactants in a DMSO solvent: pyrrole and 1-naphthaldehyde. Prior to mixing the reactants, pyrrole was distilled under an argon atmosphere with the fraction boiling at 130° C. collected. The 1-naphthaldehyde was distilled under vacuum to purify. A mixture of 6.0 g of pyrrole, 13.7 g of 1-naphthaldehyde, and 120 ml or DMSO were heated at reflux for 2 hours. The reaction solution was cooled and the DMSO solvent partially removed under vacuum. The solid that was present was filtered off and washed with 60 ml of methanol, 60 ml of hot water, and 12 ml of cold methanol. The resulting solid was then dried in a vacuum oven at ambient temperature overnight.

reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | 1-naphthaldehyde | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
solvent | DMSO | CS(=O)C | C2H6OS
product | Tetra-(1-naphthyl) porphine | C1(=CC=CC2=CC=CC=C12)C1=C2C=CC(C(=C3C=CC(=C(C=4C=CC(=C(C5=CC=C1N5)C5=CC=CC1=CC=CC=C51)N4)C4=CC=CC5=CC=CC=C45)N3)C3=CC=CC4=CC=CC=C34)=N2 | C60H38N4
